US09216980B2
Step 2: Trifluoromethanesulfonic acid 3-methoxy-4-piperidin-1-ylmethyl-phenylester
To a stirred solution of 3-methoxy-4-piperidin-1-ylmethylphenol (456 mg, 2.06 mmol) and diisopropylamine (0.77 mL, 4.54 mmol) in DCM (10 mL) at 0° C. was added N-phenyltriflamide (958 mg, 2.68 mmol). After the addition was complete the reaction mixture was allowed to warm to ambient temperature and then stirred overnight. The reaction mixture was concentrated under reduced pressure and then purified by flash chromatography (silica, 40 g column, ISCO, 0-10% methanol in DCM) to afford the title compound as a colourless oil (408 mg, 56%). NMR (CDCl3, 300 MHz): 7.60 (d, J=8.4 Hz, 1H), 6.93 (dd, J=8.4, 2.4 Hz, 1H), 6.80 (d, J=2.4 Hz, 1H), 3.93 (s, 2H), 3.89 (s, 3H), 2.87-2.74 (m, 4H), 1.82-1.75 (m, 4H), 1.57-1.50 (m, 2H).

reactant | 3-methoxy-4-piperidin-1-ylmethylphenol | 2.06 mmol, 456 mg | COC=1C=C(C=CC1CN1CCCCC1)O | C13H19NO2
reactant | diisopropylamine | 4.54 mmol, 0.77 mL | C(C)(C)NC(C)C | C6H15N
reactant | N-phenyltriflamide | 2.68 mmol, 958 mg | C1=CC=C(C=C1)NS(=O)(=O)C(F)(F)F | C7H6F3NO2S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | Trifluoromethanesulfonic acid 3-methoxy-4-piperidin-1-ylmethyl-phenylester | 408 mg, 56% | COC=1C=C(C=CC1CN1CCCCC1)OS(=O)(=O)C(F)(F)F | C14H18F3NO4S
